US06271225B1
To a solution of N-(2-hydroxy-4-methylphenyl)-2-bromo-3-thiophenecarboxamide (3.4 g) in dimethyl sulfoxide (30 ml) was added potassium carbonate (2.9 g) and the mixture was stirred at 140-1500° C. for 1 hour. The reaction system was cooled to room temperature and the reaction mixture was poured into water. The precipitated crystals were collected by filtration, washed with water and purified by silica gel column chromatography (chloroform) to give 2,8-dimethylthieno[2,3-b][1,5]benzoxazepin-4(5H)-one (1.2 g).

reactant | N-(2-hydroxy-4-methylphenyl)-2-bromo-3-thiophenecarboxamide | 3.4 g | OC1=C(C=CC(=C1)C)NC(=O)C1=C(SC=C1)Br | C12H10BrNO2S
reactant | potassium carbonate | 2.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | dimethyl sulfoxide | 30 ml | CS(=O)C | C2H6OS
product | 2,8-dimethylthieno[2,3-b][1,5]benzoxazepin-4(5H)-one | 1.2 g | CC1=CC2=C(OC3=C(NC2=O)C=CC(=C3)C)S1 | C13H11NO2S
